US06916839B2
A total of 61.9 g (388 mmol) of bromine are added dropwise at 0° C. within 2.5 h to a suspension of 60 g (366 mmol) of 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole and 30.0 g (366 mmol) of anhydrous sodium acetate in 600 ml of CHC13. On completion of addition, the mixture is allowed to come to 20° C. and is stirred for a further 4 d. After the end of the reaction, the mixture is washed with 30% NaHCO3 solution, the aqueous phase is further extracted twice using 200 ml of CHC13 each time and the combined organic phases are dried over MgSO4 and concentrated. Recystallization results in 70.6 g (291 mmol, 80%) of 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole as a bright yellow solid.

reactant | bromine | 388 mmol, 61.9 g | BrBr | Br2
reactant | 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 366 mmol, 60 g | CN1N=C(C=C1C)C(F)(F)F | C6H7F3N2
reactant | sodium acetate | 366 mmol, 30.0 g | C(C)(=O)[O-].[Na+]
product | 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 291 mmol, 70.6 g, 80% | BrC=1C(=NN(C1C)C)C(F)(F)F | C6H6BrF3N2
